US07348438B2
2-(5,6-Dichloro-1-ethyl-1H-benzoimidazol-2-yl)-1-(2,2,2-trifluoro-ethylsulfanyl)-propan-2-ol
To 1-chloro-2-(5,6-dichloro-1-ethyl-1H-benzoimidazol-2-yl)-propan-2-ol (249 mg) in methanol (5 mL) at room temperature was added a solution of 2,2,2-trifluoroethanethiol (109 mg) and sodium methoxide (0.222 mls of 25 wt % in MeOH). The resulting mixture was then stirred at room temperature overnight. The reaction mixture was concentrated. The crude product was purified by flash chromatography (10%-40% EtOAc/hexanes) to yield the title compound as a brown solid.

reactant | 1-chloro-2-(5,6-dichloro-1-ethyl-1H-benzoimidazol-2-yl)-propan-2-ol | 249 mg | ClCC(C)(O)C1=NC2=C(N1CC)C=C(C(=C2)Cl)Cl | C12H13Cl3N2O
reactant | 2,2,2-trifluoroethanethiol | 109 mg | FC(CS)(F)F | C2H3F3S
reactant | sodium methoxide | 0.222 mls | C[O-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 2-(5,6-Dichloro-1-ethyl-1H-benzoimidazol-2-yl)-1-(2,2,2-trifluoro-ethylsulfanyl)-propan-2-ol | ClC1=CC2=C(N(C(=N2)C(CSCC(F)(F)F)(C)O)CC)C=C1Cl | C14H15Cl2F3N2OS
